US05498623
A solution of 4-(2-ethyl-2,3-dihydro-5-nitro-1H-inden-1-yl)-1H-imidazole (10.25 g, 0.03988 mol) in ethanol (150 ml) was hydrogenated over PtO2 (1 g) at 3 atm pressure. When the uptake of hydrogen ceased the reaction mixture was filtered and evaporated to dryness to give 4-(5-amino-2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole (8.2 g, 91%).

reactant | 4-(2-ethyl-2,3-dihydro-5-nitro-1H-inden-1-yl)-1H-imidazole | 0.03988 mol, 10.25 g | C(C)C1C(C2=CC=C(C=C2C1)[N+](=O)[O-])C=1N=CNC1 | C14H15N3O2
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 150 ml | C(C)O | C2H6O
catalyst | PtO2 | 1 g | O=[Pt]=O
product | 4-(5-amino-2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole | 8.2 g, 91% | NC=1C=C2CC(CC2=CC1)(CC)C=1N=CNC1 | C14H17N3
